US03940393
Dissolving (±)-2,6-diamino-5-(p-chlorophenyl)-α-methyl-4-pyrimidine methanol in a sufficient amount of ether and adding an ether solution saturated with HCl gas, gave (±)-2,6-diamino-5-(p-chlorophenyl)-α-methyl-4-pyrimidine methanol, hydrochloride, m.p. 265°-269°.

reactant | (±)-2,6-diamino-5-(p-chlorophenyl)-α-methyl-4-pyrimidine methanol | NC1=NC(=C(C(=N1)C(O)C)C1=CC=C(C=C1)Cl)N | C12H13ClN4O
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | (±)-2,6-diamino-5-(p-chlorophenyl)-α-methyl-4-pyrimidine methanol, hydrochloride | Cl.NC1=NC(=C(C(=N1)C(O)C)C1=CC=C(C=C1)Cl)N | InChI=1S/C12H13ClN4O.ClH/c1-6(18)10-9(11(14)17-12(15)16-10)7-2-4-8(13)5-3-7;/h2-6,18H,1H3,(H4,14,15,16,17);1H
